US06291452B1
A mixture of (3RS)-3-amino-1-[(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl]-2,3-dihydro-9-methyl-5-(2-fluorophenyl)-1H-1,4-benzodiazepin-2-one (1.0 g) and 1,1′-carbonyldiimidazole (723 mg) in tetrahydrofuran (20 ml) was stirred at room temperature overnight. Ethyl acetate and water were added to the reaction mixture. The separated organic layer was washed with water twice, brine and dried over magnesium sulfate. The solvent was evaporated in vacuo to afford (3RS)-1-[(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl]-2,3-dihydro-5-(2-fluorophenyl)-9-methyl-3-(imidazol-1-yl)carbonylamino-1H-1,4-benzodiazepin-2-one (1.27 g) as a crystalline powder.

reactant | (3RS)-3-amino-1-[(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl]-2,3-dihydro-9-methyl-5-(2-fluorophenyl)-1H-1,4-benzodiazepin-2-one | 1.0 g | NC1C(N(C2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2C)CC(=O)N2CC1CCC(C2)CC1)=O | C26H29FN4O2
reactant | 1,1′-carbonyldiimidazole | 723 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (3RS)-1-[(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl]-2,3-dihydro-5-(2-fluorophenyl)-9-methyl-3-(imidazol-1-yl)carbonylamino-1H-1,4-benzodiazepin-2-one | 1.27 g | C12CN(CC(CC1)CC2)C(=O)CN2C(C(N=C(C1=C2C(=CC=C1)C)C1=C(C=CC=C1)F)NC(=O)N1C=NC=C1)=O | C30H31FN6O3
